Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Zosyn
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
Laceration of ear and lip sutured.  These sutures do NOT need to 
be removed.  

 
History of Present Illness:
Ms. ___ is a ___ community dwelling female with
dementia, CHF, Atrial fibrillation with hx of UTIs, presenting 
as
a transfer from ___ after an unwitnessed fall.

Her son ___ found her next to the bed around 1am. She 
sustained
a laceration above her lip and ear. She was evaluated at ___ where ___ and spine were normal. She was transferred
for further management of her ear laceration. Her ECG
demonstrated deeper ST depressions in the precordial leads than
baseline but initial trop was negative.  She has had increasing 
numbers of falls, irregular po intake and an increase in her 
torsemide dose.  She was diagnosed with dementia in ___ 
and since then has had recurrent hospitalizations at ___ 
for C diff, UTI and her son ___ has noticed a corresponding 
decline in her cognitive and functional status.   

Recently, she is not sleeping well at night and when she is up 
at night and asleep during the day, she des not eat well.   She 
fell in her room a week ago and she seemed to be OK immediately 
after this fall. Outpatient X rays were negative for hp 
fracture. The next day she was very confused. Since ___ she has had increasing confusion overall, more weak,
increased gait instability and difficulty getting around. She 
has
not had any fevers, chest pain, diarrhea, emesis or cough
. 
ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
In ED
VS on presentation:
10:46 |5 |97.8 |78 |115/69 |16 |96% RA 
Lip Lac: Above the lip on R side. Small, no bleeding, well
approximated
Ear Lac: 4-5cm, transecting through the helix and very proximal
where ear meets temple 
Seen by plastics who sutured it.
She was given olanzapine for her to tolerate suturing the ear
laceration repair.
Patient with significant orthostasis 117/64 -> 79/54 after 
receiving meds
and difficulty with ambulation after repair of laceration. She
was seen by ___ who did not think that she was safe for discharge
home. ___ recommended rehab placement. CM notes that placement
will take more than 3 days due to insurance issues. 
Given this she was admitted to medicine. She was not thought to
be appropriate for ED observation given protracted anticipated
length of management.
IVF started in ED for orthostasis.

 
Past Medical History:
PNA- ___
Past medical history: 
ASTHMA
ATRIAL FIBRILLATION
COPD
HYPERTENSION
CHRONIC HEART FAILURE
DEMENTIA- diagnosed when she presented with a UTI in ___
hx UTIs
H/o cdiff in ___

 
Social History:
___
Family History:
Past family history confirmed with ___ died age ___, head trauma, accident
Father diet rheumatic heart disease age ___

 
Physical Exam:
GENERAL: Very thin female, sitting up in chair, not agitated,
pleasantly demented.  
EYES: Anicteric, pupils equally round
ENT: R ear with sutured ear laceration 
Oropharynx without visible lesion, erythema or exudate, missing
teeth.  
R Lip with sutured wound
CV: Heart irregular
RESP: Limited exam, CTA B
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: L elbow skin tear covered with miraplex. B/l knee
abraisions covered with miraplexes
NEURO: Alert, oriented x1, face symmetric, gaze conjugate with
EOMI, speech fluent, moves all limbs, sensation to light touch
grossly intact throughout.  

 
Pertinent Results:
___ 11:28AM BLOOD WBC-11.1* RBC-3.61* Hgb-11.5 Hct-36.2 
MCV-100* MCH-31.9 MCHC-31.8* RDW-15.2 RDWSD-56.2* Plt ___
___ 01:05PM BLOOD WBC-8.4 RBC-3.19* Hgb-10.3* Hct-31.9* 
MCV-100* MCH-32.3* MCHC-32.3 RDW-15.6* RDWSD-57.3* Plt ___
___ 12:15AM BLOOD ___ PTT-27.6 ___
___ 12:15AM BLOOD Plt ___
___ 01:05PM BLOOD ___
___ 11:28AM BLOOD Glucose-89 UreaN-30* Creat-1.8* Na-142 
K-3.6 Cl-95* HCO3-31 AnGap-16
___ 12:15AM BLOOD Glucose-130* UreaN-30* Creat-1.6* Na-145 
K-4.2 Cl-99 HCO3-31 AnGap-15
___ 09:10AM BLOOD Glucose-146* UreaN-23* Creat-1.1 Na-143 
K-3.9 Cl-97 HCO3-33* AnGap-13
___ 01:05PM BLOOD Glucose-113* UreaN-29* Creat-1.2* Na-146 
K-3.8 Cl-103 HCO3-32 AnGap-11\
UA 5 WBC, few bacteria, nitrate negative
UCX:  
URINE CULTURE (Final ___: 
      ENTEROCOCCUS SP..    >100,000 CFU/mL. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS SP.
                             |   
AMPICILLIN------------  =>32 R
LINEZOLID-------------     2 S
NITROFURANTOIN--------    ___ I
TETRACYCLINE----------  =>16 R
VANCOMYCIN------------  =>32 R

Repeat UCx on ___ (obtained by straight cath) 
Negative at time of discharge

Per ___ discharge summary echocardiogram was done in 
___, which showed EF of 66%, moderate to severe 
biatrial enlargement, right ventricle is moderately dilated, 
mildly reduced right ventricle systolic function, moderate to 
severe 3+ tricuspid regurgitation, there is a moderate pulmonary 
hypertension"

 
Brief Hospital Course:
Ms. ___ is a ___ female with atrial fibrillation on 
coumadin, chronic heart failure, dementia, recent h/o cdiff who 
presents s/p fall c/b ear laceration.   She now has superimposed 
delirium with altered sleep/wake cycle and has had multiple 
hospitalizations this year with associated functional
and cognitive decline.  .
ACUTE/ACTIVE PROBLEMS:
#ACUTE RENAL FAILURE - resolved on holding torsemide

# Hypotension:  Occurred on receiving home dose of metoprolol; 
decreased dose to metoprolol xl 25 mg po daily.  Her HR was well 
controlled on this dose (largely 80-low 100s) and she did not 
demonstrate hypotension.

# Atrial fibrillation:  Continued on Coumadin, but I discussed 
with son that obtain lab draws on her is very difficult and that 
he may want to consider discontinuing Coumadin for stroke 
prevention by considering her goals of care in light of advanced 
dementia.  

# + urine culture:  UA appeared very bland, so she was not given 
antibiotics for her + urine culture.  She had no fevers, and WBC 
count normalized without treatment.  
 
# Chronic CHF:  SHe is below her dry weight of 114 lbs 
(discussed
with her outpatient office);  her diuretics were stopped during 
this admission due to her soft blood pressures, poor po intake 
and due to her being well below her dry weight.  
 
# R EAR LACERATION:
s/P surgical repair by plastics.  Sutures do NOT need to be 
removed.

# FALL/SYNCOPE
- No events on telemetry while hospitalized; falls and syncope 
likely secondary to hypotension
.
DEMENTIA/DELIRIUM
- pt is currently demented and delirious, but is pleasant and 
not
combative
- She sleeps the best when she takes both Seroquel and trazodone 
at night.

Goals of Care:  Discussed at length with son that her po intake 
is poor and that her dementia is end-stage.  She is DNR/DNI.  
She had very limited ability to ambulate in the hospital, and 
may have very limited to no rehab potential.  I advised him to 
consider long term placement.  He needs to make decisions on the 
remainder of MOLST form questions.  Also advised him to stop 
Coumadin given difficulty getting blood draws and her falls, but 
he would like to "think about that"
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins W/minerals 1 TAB PO DAILY 
2. Warfarin 2.5 mg PO DAILY16 
3. melatonin 3 mg oral QHS 
4. TraZODone 25 mg PO QHS:PRN insomnia 
5. QUEtiapine Fumarate 37.5 mg PO QHS 
6. Potassium Chloride 20 mEq PO DAILY 
7. Florajen (Lactobacillus acidophilus) 460 mg (20 billion cell) 
oral DAILY 
8. Metoprolol Succinate XL 50 mg PO BID 
9. Torsemide 40 mg PO DAILY 

 
Discharge Medications:
1.  Metoprolol Succinate XL 25 mg PO DAILY  
2.  TraZODone 25 mg PO QHS insomnia  
3.  Warfarin 1 mg PO DAILY16  
4.  Florajen (Lactobacillus acidophilus) 460 mg (20 billion 
cell) oral DAILY  
5.  melatonin 3 mg oral QHS  
6.  Multivitamins W/minerals 1 TAB PO DAILY  
7.  QUEtiapine Fumarate 37.5 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
1.  Repeated falls
2.  Acute renal failure
3.  Dementia
4.  Atrial fibrillation
5.  Congestive heart failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were transferred to the hospital after several falls at 
home, and the most recent fall caused a laceration in the ear 
and lip.  These were sutured by the plastic surgeons here in 
___.
We had to hold your diuretic (torsemide) and reduced your dose 
of metoprolol as your blood pressures were low.
Your dementia is very advanced and you are eating and drinking 
little.  We recommend that you continue to eat and drink for 
pleasure.

Given your repeated falls, we also discussed with your son 
stopping your ___.  He would like to think about this for 
now.  
 
Followup Instructions:
___